US07067517B2
Methyl-phenyl-carbamic acid 4-(imidazol-1-yloxymethyl)-phenyl ester
The title compound was prepared as its TFA salt in 87% yield as a solid using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 1-hydroxyimidazole, hydrochloride. 1H NMR (400 MHz; CDCl3): δ 3.42 (br s, 3H), 5.21 (s, 2H), 6.95 (s, 1H), 7.16–7.45 (m, 10H) 8.28 (br s, 1H); HPLC-MS: m/z=324.1 (M+1); Rt=1.92 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 1-hydroxyimidazole, hydrochloride | Cl.ON1C=NC=C1
product | Methyl-phenyl-carbamic acid 4-(imidazol-1-yloxymethyl)-phenyl ester | 87% yield | N1(C=NC=C1)OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H17N3O3
